US08202865B2
Step 2: tert-Butyl 3-cyanobenzyl(2-hydroxyethyl)carbamate
To a stirred solution of 3-{[(2-Hydroxyethyl)amino]methyl}benzonitrile (4 g, 0.0227 mol) in dry THF (100 mL), was added di-tert-butyl dicarbonate (5.44 mL, 0.0249 mol) and refluxed at 70° C. for a period of 6 hours. The reaction mixture was then concentrated under reduced pressure to afford the title compound as a pale yellow liquid (6 g, 96%). 1H NMR (DMSO-d6, 400 MHz) δ 7.71-7.73 (m, 1H), 7.64 (s, 1H), 7.54-7.55 (d, 2H), 4.68 (bs, 1H), 4.45 (s, 2H), 3.46 (s, 2H), 3.27-3.30 (m, 2H), 1.41-1.45 (d, 9H).

reactant | 3-{[(2-Hydroxyethyl)amino]methyl}benzonitrile | 0.0227 mol, 4 g | OCCNCC=1C=C(C#N)C=CC1 | C10H12N2O
reactant | di-tert-butyl dicarbonate | 0.0249 mol, 5.44 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-cyanobenzyl(2-hydroxyethyl)carbamate | 6 g, 96% | C(#N)C=1C=C(CN(C(OC(C)(C)C)=O)CCO)C=CC1 | C15H20N2O3
